US07842685B2
3-((3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)-cyclobutane-1,1-dicarboxylic acid (0.360 g, 0.716 mmol) was treated with 4 mL DMSO, fitted with a water cooled reflux condenser, and heated to 160° C. After 4 h, the reaction mixture was cooled to rt. The reaction mixture was partitioned between water and EtOAc. The organic layer was washed with water once, satd NaCl once and the organics were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give a light yellow solid, as an approximately 2:1 mixture of isomers. Separation by SFC (Gradient with Chiralpak IC (21×250 mm, 5 micron), pure methanol with CO2 70 mL/min) gave (trans)-3-(3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)benzyl)cyclobutanecarboxylic acid as a white solid. MS (ESI) m/z: calculated: 458.2; Observed: 459.1 (M++1).

reactant | 3-((3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methyl)-cyclobutane-1,1-dicarboxylic acid | 0.716 mmol, 0.360 g | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CC1CC(C1)(C(=O)O)C(=O)O | C28H23FN2O4S
reactant | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (trans)-3-(3-fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)benzyl)cyclobutanecarboxylic acid | FC=1C=C(C[C@@H]2C[C@H](C2)C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C27H23FN2O2S
